US09034866B2
Synthesis of (±)-10-bromo-3-((1,3-dimethyl-1H-pyrazol-4-yl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylic acid
10-bromo-3-((1,3-dimethyl-1H-pyrazol-4-yl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylic acid was prepared similarly according to the procedure for the synthesis of 10-bromo-9-fluoro-3-(hydroxy(3-(trifluoromethyl)phenyl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylic acid. methyl 10-bromo-3-((1,3-dimethyl-1H-pyrazol-4-yl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate was reacted with lithium hydroxide to the crude title compound which was carried forward without further purification.

reactant | 10-bromo-9-fluoro-3-(hydroxy(3-(trifluoromethyl)phenyl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylic acid | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)O)C(C3=CC(=CC=C3)C(F)(F)F)O)C1)F | C20H13BrF4N2O4
reactant | methyl 10-bromo-3-((1,3-dimethyl-1H-pyrazol-4-yl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)OC)C(O)C=3C(=NN(C3)C)C)C1)F | C19H18BrFN4O4
reactant | lithium hydroxide | [OH-].[Li+]
product | (±)-10-bromo-3-((1,3-dimethyl-1H-pyrazol-4-yl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylic acid | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)O)C(O)C=3C(=NN(C3)C)C)C1)F | C18H16BrFN4O4
